US08278457B2
Step 3. Synthesis of cis-2-azidocyclopentyl 4-bromophenyl ether
To a solution of trans-2-(4-bromophenoxy)cyclopentyl methanesulfonate (3.52 g, 10.5 mmol) in dimethylformamide (22 mL) was added sodium azide (897 mg, 13.7 mmol) and the reaction was heated at 100° C. for 18 hours. The reaction was cooled to room temperature and partitioned between ethyl acetate and 1N aqueous lithium chloride solution. The aqueous layer was extracted with ethyl acetate, and the combined organic layers were washed with saturated aqueous sodium chloride solution, dried over calcium sulfate, filtered and concentrated in vacuo to provide product as a brown oil, which was used in the next step without additional purification. Yield: 2.59 g, 9.18 mmol, 87%. 1H NMR (400 MHz, CDCl3) δ 1.65-1.73 (m, 1H), 1.89-2.05 (m, 5H), 3.74 (m, 1H), 4.66 (m, 1H), 6.83 (d, J=9.0 Hz, 2H), 7.39 (d, J=9.0 Hz, 2H).

reactant | trans-2-(4-bromophenoxy)cyclopentyl methanesulfonate | 10.5 mmol, 3.52 g | CS(=O)(=O)O[C@H]1[C@@H](CCC1)OC1=CC=C(C=C1)Br | C12H15BrO4S
reactant | sodium azide | 13.7 mmol, 897 mg | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | 22 mL | CN(C=O)C | C3H7NO
product | cis-2-azidocyclopentyl 4-bromophenyl ether | BrC1=CC=C(C=C1)O[C@H]1[C@H](CCC1)N=[N+]=[N-] | C11H12BrN3O
